US04083860
In a 500 ml four-neck round-bottom flask, as described in Example 1, 148.85 g of tributyltin oxide and 110 g dimethyl phosphite are heated with stirring to about 120° C. The reaction mixture is kept at this temperature for about 2 hours, dimethyl ether being split off. The reaction mixture is then heated with stirring under a vacuum of 20 to 5 mm Hg at 145° C, until the excess dimethyl phosphite has been distilled off. 193.3 g of tributyltin methyl phosphite are obtained. 128.5 g of tributyltin methyl phosphite and 68.7 g of lauryl alcohol are heated with stirring in a 500 ml four-neck round-bottom flask equipped with a stirrer, thermometer, standard taper glass stopper, stillhead with condenser, cooled distillate receiver and cold trap at 140° C for 5 hours, for one hour of which a vacuum (30 - 5 mm HG) is applied. Methanol is distilled off. 178 g tributyltin lauryl phosphite are obtained.

reactant | tributyltin methyl phosphite | 128.5 g | COP([O-])[O-].C(CCC)[Sn+2](CCCC)CCCC
reactant | lauryl alcohol | 68.7 g | C(CCCCCCCCCCC)O | C12H26O
product | tributyltin lauryl phosphite | 178 g | C(CCCCCCCCCCC)OP([O-])[O-].C(CCC)[Sn+2](CCCC)CCCC | InChI=1S/C12H25O3P.3C4H9.Sn/c1-2-3-4-5-6-7-8-9-10-11-12-15-16(13)14;3*1-3-4-2;/h2-12H2,1H3;3*1,3-4H2,2H3;/q-2;;;;+2
